US07429665B2
1-[2,3-Difluoro-4-(quinolin-2-ylmethoxy)-phenyl]-2-pyridin-4-yl-ethanone
Following the procedure for the preparation of 2-pyridin-4-yl-1-[4-(quinolin-2-ylmethoxy)-phenyl]-ethanone but substituting 2,3-Difluoro-N-methoxy-N-methyl-4-(quinolin-2-ylmethoxy)-benzamide provided the title compound. MS: (M+H m/z=391.1).

reactant | 2-pyridin-4-yl-1-[4-(quinolin-2-ylmethoxy)-phenyl]-ethanone | N1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C23H18N2O2
reactant | 2,3-Difluoro-N-methoxy-N-methyl-4-(quinolin-2-ylmethoxy)-benzamide | FC1=C(C(=O)N(C)OC)C=CC(=C1F)OCC1=NC2=CC=CC=C2C=C1 | C19H16F2N2O3
product | 1-[2,3-Difluoro-4-(quinolin-2-ylmethoxy)-phenyl]-2-pyridin-4-yl-ethanone | FC1=C(C=CC(=C1F)OCC1=NC2=CC=CC=C2C=C1)C(CC1=CC=NC=C1)=O | C23H16F2N2O2
